US08048909B2
Methyl 4,5-diphenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Using methyl 4,5-diphenyl-1H-pyrrole-3-carboxylate (428 mg), sodium hydride (60% in oil, 74 mg) and benzenesulfonyl chloride (0.24 mL), a procedure as in Reference Example 4 was performed to give the title compound as white crystals (yield 506 mg, 79%).

reactant | methyl 4,5-diphenyl-1H-pyrrole-3-carboxylate | 428 mg | C1(=CC=CC=C1)C=1C(=CNC1C1=CC=CC=C1)C(=O)OC | C18H15NO2
reactant | sodium hydride | 74 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 0.24 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | Methyl 4,5-diphenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 506 mg, 79% | C1(=CC=CC=C1)C=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)OC | C24H19NO4S
